Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Recurrent ventral hernia 
 
Major Surgical or Invasive Procedure:
___: Robot assisted minimally invasive ventral hernia repair 
with mesh.

 
History of Present Illness:
The patient is a ___ female with history of ventral 
hernia repair in ___. Unfortunately, she developed recurrent 
hernia, which causing epigastric pain. Patient was evaluated by 
Dr. ___ possible surgical repair.  
 
Past Medical History:
obesity, GERD, chronic headaches, gastritis, hypertension, iron 
deficiency anemia, muscle spasms and myalgia, peptic ulcer 
disease, and hip pain.

 
Social History:
___
Family History:
Family history is positive for her mother having diabetes and 
her father having chronic COPD, both parents are deceased, and 
brother having emphysema.

 
Physical Exam:
Prior to Discharge:
VS: 97.8, 75, 114/65, 17, 100% RA
GEN: NAD
CV: RRR
PULM: CTAB
ABD: Laparoscopic incisions open to air with occlusive dressing 
and c/d/I.
EXTR: Warm, no c/c/e
 
Pertinent Results:
___ 05:30AM BLOOD WBC-6.6 RBC-4.71 Hgb-11.4 Hct-36.1 
MCV-77* MCH-24.2* MCHC-31.6* RDW-15.3 RDWSD-42.5 Plt ___
___ 05:30AM BLOOD Glucose-94 UreaN-10 Creat-0.6 Na-138 
K-3.8 Cl-98 HCO3-29 AnGap-15
___ 05:30AM BLOOD Calcium-8.8 Phos-3.0 Mg-2.2
 
Brief Hospital Course:
The patient with recurrent ventral hernia was admitted to the 
General Surgical Service after robot assisted, minimally 
invasive ventral hernia repair with mesh. Post operatively 
patient was transferred to the floor tolerating clear liquid 
diet, on IV fluids, and PCA for pain control. On POD 1, 
patient's diet was advanced to regular and was well tolerated, 
IF fluids were discontinued, patient was transitioned to oral 
pain medications and voided without any difficulties. Patient 
was discharged home in stable condition. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 
2. Tolterodine 1 mg PO BID 
3. Multivitamins 1 TAB PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. ValACYclovir 500 mg PO Q8H 
6. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
2.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron [Zofran ODT] 4 mg 1 tablet(s) by mouth every 
eight (8) hours Disp #*20 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0 
4.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
do not exceed more then 3000 mg/day  
5.  Chlorthalidone 25 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Omeprazole 40 mg PO DAILY  
8.  Tolterodine 1 mg PO BID  
9.  ValACYclovir 500 mg PO Q8H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Recurrent ventral hernia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the surgery service at ___ for surgical 
repair of recurrent ventral hernia. You have done well in the 
post operative period and are now safe to return home to 
complete your recovery with the following instructions:
.
Please call Dr. ___ office at ___ if you have any 
questions or concerns. 
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Incision Care:
*Wear abdominal binder for comfort.
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___